US04228170
A solution of 5.0 g. (0.06 mole) of 2-trifluoroacetyl-7-fluorosulfonyl-1,2,3,4-tetrahydroisoquinoline and 100 ml. of acetone and 50 ml. of 6 N hydrochloric acid was stirred at room temperature overnight. The solution was concentrated, taken up in water, extracted with chloroform, concentrated and the water azeotropically removed. The resultant solid was recrystallized from methanol to give 7-fluorosulfonyl-1,2,3,4-tetrahydroisoquinoline hydrochloride, m.p. 230°-232° C.

reactant | 2-trifluoroacetyl-7-fluorosulfonyl-1,2,3,4-tetrahydroisoquinoline | 0.06 mole | FC(C(=O)N1CC2=CC(=CC=C2CC1)S(=O)(=O)F)(F)F | C11H9F4NO3S
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 7-fluorosulfonyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.FS(=O)(=O)C1=CC=C2CCNCC2=C1 | InChI=1S/C9H10FNO2S.ClH/c10-14(12,13)9-2-1-7-3-4-11-6-8(7)5-9;/h1-2,5,11H,3-4,6H2;1H
